US04374829
In the manner described in example 24, one can condense 2-oxo-4-phenylbutyric acid and L-alanyl-L-tryptophan in the presence of sodium cyanoborohydride to yield N-(1-carboxy-3-phenylpropyl)-L-alanyl-L-tryptophan.

reactant | 2-oxo-4-phenylbutyric acid | O=C(C(=O)O)CCC1=CC=CC=C1 | C10H10O3
reactant | L-alanyl-L-tryptophan | N[C@@H](C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C14H17N3O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | N-(1-carboxy-3-phenylpropyl)-L-alanyl-L-tryptophan | C(=O)(O)C(CCC1=CC=CC=C1)N[C@@H](C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C24H27N3O5
